US07439256B2
N-(3-Aminophenyl)-3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxamide (3):
To a solution of 1,3 phenylenediamine (5.43 g, 50.3 mmol) in anhydrous toluene (100 mL) was added AlMe3 (2M in toluene, 7.5 mL, 15.1 mmol) and the solution was stirred at rt overnight. Methyl 3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxylate (3 g, 10.05 mmol) was added and the mixture was stirred at 130° C. for 3 h. The reaction mixture was cooled to rt and the toluene was decanted. To the remaining residue, 50 mL of 2N NaOH and 100 mL of CH2Cl2 were added and the solution stirred for 30 min. The CH2Cl2 layer was separated and the aqueous layer was extracted with CH2Cl2 (3×50 mL). The toluene and CH2Cl2 layers were combined, washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Purification by silica gel chromatography (50% hexanes:ethyl acetate→100% ethyl acetate) followed by trituration of the solid with CH2Cl2 yielded pure N-(3-aminophenyl)-3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxamide as a tan powder. MS (ES): m/z 374.86 (100) [MH+]; 1H NMR (DMSO-d6, 400 MHz): δ 4.98-4.50 (m, 2H), 5.04 (d, J=5.6 Hz, 2H), 6.25 (d, J=7.2 Hz, 1H), 6.72 (d, J=8.0 Hz, 1H), 6.79 (d, J=5.6 Hz, 1H), 6.89 (t, J=8.0 Hz, 1H), 6.96-6.97 (m, 1H), 7.39 (d, J=4.4 Hz, 1H), 7.55 (d, J=5.6 Hz, 1H), 7.66 (t, J=7.2 Hz, 1H), 7.78 (t, J=6.8 Hz, 1H), 8.00-8.05 (m, 2H), 8.21 (d, J=8.0 Hz, 1H), 8.82 (d, J=4.4 Hz, 1H), 9.08 (s, 1H).

reactant | 1,3 phenylenediamine | 50.3 mmol, 5.43 g | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | AlMe3 | 15.1 mmol, 2M, 7.5 mL | C[Al](C)C
reactant | Methyl 3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxylate | 10.05 mmol, 3 g | N1=CC=C(C2=CC=CC=C12)CNC1=C(SC=C1)C(=O)OC | C16H14N2O2S
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-Aminophenyl)-3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxamide | NC=1C=C(C=CC1)NC(=O)C=1SC=CC1NCC1=CC=NC2=CC=CC=C12 | C21H18N4OS
